US06372777B1
Preparation of 5-Methyl-1-(5-nitropyridin-2-yl)-2-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester
5-Nitro-2-aminopyridine (5 mmol, 0.7 g), 2-benzoyl-4-oxo-pentanoic acid ethyl ester (5 mmol, 1.2 g), and tosic acid (0.1 g) were combined in ethanol, then heated under reflux. The resulting solid was triturated with chloroform, and the insoluble material filtered from the reaction mixture. The filtrate was purified over silica gel and yielded the named product (m.p. 146.6° C.-148.6° C.).

reactant | 5-Nitro-2-aminopyridine | 5 mmol, 0.7 g | [N+](=O)([O-])C=1C=CC(=NC1)N | C5H5N3O2
reactant | 2-benzoyl-4-oxo-pentanoic acid ethyl ester | 5 mmol, 1.2 g | C(C)OC(C(CC(C)=O)C(C1=CC=CC=C1)=O)=O | C14H16O4
reactant | tosic acid | 0.1 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | ethanol | C(C)O | C2H6O
product | 5-Methyl-1-(5-nitropyridin-2-yl)-2-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C(=C1)C)C1=NC=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1 | C19H17N3O4
